US07122545B2
0.08 g 2-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester was dissolved in 13 ml of a 7.7 molar solution of hydrogen chloride in methanol. After stirring at room temperature for 2 days the solvent was distilled off, toluene was added and distilled off and the residue was suspended in ethanol and filtered to yield 0.056 g (81%) 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine hydrochloride as yellow solid; M.p.: 268–271° C.; MS (ISP): m/e=372 (M+H+).

reactant | 2-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester | 0.08 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C23H29N5O4S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine hydrochloride | 0.056 g, 81% | Cl.COC1=CC=C(C2=C1N=C(S2)C=2NC1=C(CNCC1)N2)N2CCOCC2 | InChI=1S/C18H21N5O2S.ClH/c1-24-14-3-2-13(23-6-8-25-9-7-23)16-15(14)22-18(26-16)17-20-11-4-5-19-10-12(11)21-17;/h2-3,19H,4-10H2,1H3,(H,20,21);1H
